US08293768B2
Synthesis of N-benzyl-2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 15, making variations as required to replace 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 2-(3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)acetic acid to react with 4-fluorobenzylamine, the title compound was obtained as a colorless solid in 75% yield: mp 232-234° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.64 (t, J=5.9 Hz, 1H), 8.52 (t, J=5.9 Hz, 1H), 7.37-7.12 (m, 9H), 4.38 (d, J=5.9 Hz, 2H), 4.29 (d, J=5.9 Hz, 2H), 4.05-3.98 (m, 2H), 3.93 (s, 2H), 3.65-3.57 (m, 2H), 2.48 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 167.4, 161.7, 161.1 (d, JC-F=242.0 Hz), 157.3, 155.4, 150.8, 139.6, 135.3 (d, JC-F=2.9 Hz), 129.1 (d, JC-F=8.1 Hz), 128.2, 127.2, 126.6, 117.8, 115.0 (d, JC-F=21.3 Hz), 46.2, 42.8, 42.5, 42.0, 41.3, 17.0; MS (ES+) m/z 482.1 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)O | C17H15F3N2O3S
reactant | 2-(3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)acetic acid | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC(=O)O)=O)C | C17H18N4O4S
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-benzyl-2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 75% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC(=O)NCC1=CC=C(C=C1)F)=O)C | C24H24FN5O3S
